US04048191
A 7.2 g. sample of ethyl 4-bromo-3-carboxy-5-p- chlorobenzoyl-1-methylpyrrole-2-acetate is heated at 250° for 10 minutes under nitrogen. It is then cooled and dissolved in ether; the resulting ether solution is filtered, washed with sodium hydroxide solution, and then washed with water. After the ether is evaporated in vacuo, the residue is triturated with boiling hexane. Concentration of the hexane solution to a small volume in vacuo yields a crystalline precipitate, which is recrystallized from methanol to give ethyl 4-bromo-5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetate as a white solid; m.p. 118°-120° C.

reactant | ethyl 4-bromo-3-carboxy-5-p- chlorobenzoyl-1-methylpyrrole-2-acetate | BrC=1C(=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)OCC)C(=O)O | C17H15BrClNO5
solvent | ether | CCOCC | C4H10O
product | ethyl 4-bromo-5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetate | BrC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)OCC | C16H15BrClNO3
